US08071592B2
(c) 6-({[4-(Methyloxy)phenyl]methyl}oxy)-2,3-pyridinediamine
To a suspension of 6-({[4-(methyloxy)phenyl]methyl}oxy)-3-nitro-2-pyridineamine (4.8 g, 17.5 mmol) and zinc (11 g, 175 mmol) in methanol (200 mL) was added dropwise acetic acid (5 mL) at rt. After 0.5 h the reaction was filtered through celite and then the solvent was evaporated. The residue was partitioned between water (500 mL) and ethyl acetate (500 mL), the phases were separated and the water extracted with ethyl acetate (5×500 mL). The combined organic phases were dried, filtered and evaporated to afford 3.9 g of the title compound as a black solid (91%).

reactant | 6-({[4-(methyloxy)phenyl]methyl}oxy)-3-nitro-2-pyridineamine | 17.5 mmol, 4.8 g | COC1=CC=C(C=C1)COC1=CC=C(C(=N1)N)[N+](=O)[O-] | C13H13N3O4
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 200 mL | CO | CH4O
catalyst | zinc | 175 mmol, 11 g | [Zn] | Zn
product | 6-({[4-(Methyloxy)phenyl]methyl}oxy)-2,3-pyridinediamine | 3.9 g, 91% | COC1=CC=C(C=C1)COC1=CC=C(C(=N1)N)N | C13H15N3O2
